US03966766
In a manner similar to that described in Example 2A, treat pentaethylene glycol with phosphorous tribromide in pyridine. Isolate and purify the resultant product in a manner similar to that described to obtain pentaethylene glycol dibromide.

reactant | pentaethylene glycol | C(COCCOCCOCCOCCO)O | C10H22O6
reactant | phosphorous tribromide | P(Br)(Br)Br | Br3P
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | pentaethylene glycol dibromide | [Br-].[Br-].C(COCCOCCOCCOCCO)O | InChI=1S/C10H22O6.2BrH/c11-1-3-13-5-7-15-9-10-16-8-6-14-4-2-12;;/h11-12H,1-10H2;2*1H/p-2
